US09387202B2
Using the procedure of Example 12, N-(5-chloro-4-((2-chloropyridin-4-yl)oxy)-2-fluorophenyl)-4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide (0.05 g, 0.094 mmol), cyclopropancarboxamide (12 mg, 0.14 mmol), Cs2CO3 (0.05 g, 0.14 mmol), Xantphos (6 mg, 0.010 mmol), Pd2(dba)3 (5 mg, 0.005 mmol) and dioxane (2 mL) were combined to obtain N-(5-chloro-4-((2-(cyclopropanecarboxamido)pyridin-4-yl)oxy)-2-fluorophenyl)-4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide (27 mg, 48.4% yield). 1H NMR (400 MHz, DMSO-d6): δ 11.20 (s, 1 H), 10.88 (s, 1 H), 8.50 (d, J=7.8 Hz, 1 H), 8.19 (d, J=5.7 Hz, 1 H), 7.92 (d, J=7.8 Hz, 1 H), 7.59 (d, J=2.4 Hz, 1 H), 7.50 (m, 3 H), 7.36 (t, J=8.7 Hz, 2 H), 6.68 (dd, J=5.7, 2.4 Hz, 1 H), 6.55 (d, J=7.9 Hz, 1 H), 4.28 (q, J=7.0 Hz, 2 H), 1.95 (m, 1 H), 1.33 (t, J=7.0 Hz, 3 H), 0.76 (t, J=5.9 Hz, 4 H); MS (ESI) m/z: 581.1 (M+H+).

reactant | N-(5-chloro-4-((2-chloropyridin-4-yl)oxy)-2-fluorophenyl)-4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | 0.094 mmol, 0.05 g | ClC=1C(=CC(=C(C1)NC(=O)C=1C(N(C=CC1OCC)C1=CC=C(C=C1)F)=O)F)OC1=CC(=NC=C1)Cl | C25H17Cl2F2N3O4
reactant | cyclopropancarboxamide | 0.14 mmol, 12 mg | C1(CC1)C(=O)N | C4H7NO
reactant | Cs2CO3 | 0.14 mmol, 0.05 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | Xantphos | 0.010 mmol, 6 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
catalyst | Pd2(dba)3 | 0.005 mmol, 5 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N-(5-chloro-4-((2-(cyclopropanecarboxamido)pyridin-4-yl)oxy)-2-fluorophenyl)-4-ethoxy-1-(4-fluorophenyl)-2-oxo-1,2-dihydropyridine-3-carboxamide | 27 mg, 48.4% yield | ClC=1C(=CC(=C(C1)NC(=O)C=1C(N(C=CC1OCC)C1=CC=C(C=C1)F)=O)F)OC1=CC(=NC=C1)NC(=O)C1CC1 | C29H23ClF2N4O5
